US07691882B2
(4-(Pyridin-2-yloxy)benzene)-acetohydroximoyl chloride
To a methanol solution (30 mL) of 2-(4-(2-nitro-ethyl)-phenoxy)-pyridine (2.0 g, 8.2 mmol) described in Manufacturing Example 209-1-3 was added lithium methoxide (470 mg, 12 mmol), and this mixture was concentrated under a reduced pressure. Toluene was added to the residue, and the solvent was evaporated under a reduced pressure. To a solution of this residue in methylene chloride (40 mL) and tetrahydrofuran (20 mL) was added titanium (IV) tetrachloride (2.3 mL, 21 mmol) while stirring at −76° C. This suspension was stirred for 15 minutes at 0° C., and then for another 20 minutes at room temperature. The mixture was poured into ice water and stirred for 30 minutes. Ethyl acetate was added, and the organic layer was separated, washed with aqueous sodium chloride (one time), dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (2.1 g, 98%).

reactant | methanol | 30 mL | CO | CH4O
reactant | 2-(4-(2-nitro-ethyl)-phenoxy)-pyridine | 8.2 mmol, 2.0 g | [N+](=O)([O-])CCC1=CC=C(OC2=NC=CC=C2)C=C1 | C13H12N2O3
reactant | lithium methoxide | 12 mmol, 470 mg | C[O-].[Li+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium (IV) tetrachloride | 21 mmol, 2.3 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(Pyridin-2-yloxy)benzene)-acetohydroximoyl chloride | 2.1 g, 98% | C(C)(=NO)Cl.N1=C(C=CC=C1)OC1=CC=CC=C1 | InChI=1S/C11H9NO.C2H4ClNO/c1-2-6-10(7-3-1)13-11-8-4-5-9-12-11;1-2(3)4-5/h1-9H;5H,1H3
